US05747498
6,7-Dibutoxyquinazolin-4-one (105 mg, 0.362 mmol), triphenylphosphine (208 mg, 0.796 mmol) and 5 mL of carbon tetrachloride were refluxed for 16 hours and the reaction mixture was concentrated in vacuo to a residue which was diluted with 3 mL of isopropyl alcohol and 3-ethynylaniline (47 mg, 0.398 mmol) and refluxed for 3 hours. The cooled reaction mixture was filtered to afford solid (6,7-dibutoxy-quinazolin-4-yl)-(3-ethynyl-phenyl)-amine hydrochloride which was washed with 10 mL of isopropyl alcohol and dried in vacuo at 70° C., 92 mg (60%); mp 247°-248° C.

reactant | 6,7-Dibutoxyquinazolin-4-one | 0.362 mmol, 105 mg | C(CCC)OC=1C=C2C(NC=NC2=CC1OCCCC)=O | C16H22N2O3
reactant | triphenylphosphine | 0.796 mmol, 208 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrachloride | 5 mL | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | 3-ethynylaniline | 0.398 mmol, 47 mg | C(#C)C=1C=C(N)C=CC1 | C8H7N
solvent | isopropyl alcohol | 3 mL | C(C)(C)O | C3H8O
product | (6,7-dibutoxy-quinazolin-4-yl)-(3-ethynyl-phenyl)-amine hydrochloride | Cl.C(CCC)OC=1C=C2C(=NC=NC2=CC1OCCCC)NC1=CC(=CC=C1)C#C | InChI=1S/C24H27N3O2.ClH/c1-4-7-12-28-22-15-20-21(16-23(22)29-13-8-5-2)25-17-26-24(20)27-19-11-9-10-18(6-3)14-19;/h3,9-11,14-17H,4-5,7-8,12-13H2,1-2H3,(H,25,26,27);1H
